US07144897B2
Methyl N-acetyl-3-[(1-propylbutyl)sulfonyl]alaninate (LXXXII, 9.2 g) in acetic acid (50 ml) and concentrated hydrochloric acid (50 ml). The mixture is refluxed for 4 hours then concentrated under reduced pressure. The residue is chased with toluene (2×) then vacuum dried overnight to give 3-[(1-propylbutyl)sulfonyl]alanine hydrochloride salt (LXXXIII).

reactant | Methyl N-acetyl-3-[(1-propylbutyl)sulfonyl]alaninate | 9.2 g | C(C)(=O)N[C@@H](CS(=O)(=O)C(CCC)CCC)C(=O)OC | C13H25NO5S
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3-[(1-propylbutyl)sulfonyl]alanine hydrochloride salt | Cl.C(CC)C(CCC)S(=O)(=O)C[C@H](N)C(=O)O | InChI=1S/C10H21NO4S.ClH/c1-3-5-8(6-4-2)16(14,15)7-9(11)10(12)13;/h8-9H,3-7,11H2,1-2H3,(H,12,13);1H/t9-;/m0./s1
